US04348396
A suspension of 1.0 g. of 5-isopropoxyanthranilic acid, 1.1 g. of 6-chloro-3-pyridinemethanol benzoate and 0.01 g. of potassium iodide in 10 ml. of triglyme was heated to 150° overnight under a stream of argon. On cooling, the reaction mixture was dissolved in hot methanol, filtered and evaporated to an orange oil. Chromatographic separation and recrystallization from hexane-dichloromethane yielded 8-hydroxymethyl-2-isopropoxy-11H-pyrido[2,1-b]quinazoline-11-one benzoate, mp 123°-126°.

reactant | 5-isopropoxyanthranilic acid | C(C)(C)OC1=CC=C(C(C(=O)O)=C1)N | C10H13NO3
reactant | 6-chloro-3-pyridinemethanol benzoate | C(C1=CC=CC=C1)(=O)OCC=1C=NC(=CC1)Cl | C13H10ClNO2
reactant | potassium iodide | [I-].[K+]
reactant | triglyme | COCCOCCOCCOC | C8H18O4
solvent | methanol | CO | CH4O
product | 8-hydroxymethyl-2-isopropoxy-11H-pyrido[2,1-b]quinazoline-11-one benzoate | C(C1=CC=CC=C1)(=O)O.OCC=1C=CC2=NC3=CC=C(C=C3C(N2C1)=O)OC(C)C | InChI=1S/C16H16N2O3.C7H6O2/c1-10(2)21-12-4-5-14-13(7-12)16(20)18-8-11(9-19)3-6-15(18)17-14;8-7(9)6-4-2-1-3-5-6/h3-8,10,19H,9H2,1-2H3;1-5H,(H,8,9)
